US07115607B2
(Methylsulfonyl) (2-piperazinylphenyl)amine
To a round-bottomed flask equipped with stirring was added (methylsulfonyl){2-[4-benzylpiperazinyl]phenyl}amine (42 g, 120 mmol), MeOH, 10% Pd/C (Aldrich)(25 g), and HCO2NH4 (38 g, 610 mmol). After heating at reflux for 2 h, the mixture was filtered through Celite® and washed with CH2Cl2. The combined organic layers were washed with NaHCO3 and concentrated in vacuo to afford a light yellow solid. This was treated with a soln of EtOAc and HCl to afford the salt of the desired compound as the hydrochloride salt (20 g). MS (ESI, pos. Ion) m/z: 256 (M+H); MS (ESI, neg. Ion) m/z: 254 (M−H). Calc'd for C11H17N3O2S: 255.10.

reactant | (methylsulfonyl){2-[4-benzylpiperazinyl]phenyl}amine | 120 mmol, 42 g | CS(=O)(=O)NC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=CC=C1 | C18H23N3O2S
reactant | MeOH | CO | CH4O
reactant | HCl | Cl | ClH
catalyst | Pd/C | 25 g | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (Methylsulfonyl) (2-piperazinylphenyl)amine | CS(=O)(=O)NC1=C(C=CC=C1)N1CCNCC1 | C11H17N3O2S
